US07419988B2
1,1-dimethylethyl {2-[4-[2-{4-[(dimethylamino)methyl]phenyl}-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-3-(4-nitrophenyl)-1H-pyrazol-1-yl]ethyl}methylcarbamate
Following the procedure described for Intermediate 100 using 1,1-dimethylethyl {2-[3-[(1E,2Z)-1-ethylidene-4-nitro-2,4-pentadien-1-yl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]ethyl}methylcarbamate and ({4-[4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]phenyl}methyl)dimethylamine provided the title compound. ESMS [M+H]+: 736.4.

reactant | 1,1-dimethylethyl {2-[3-[(1E,2Z)-1-ethylidene-4-nitro-2,4-pentadien-1-yl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]ethyl}methylcarbamate | C(/C)=C(/C=C\C(=C)[N+](=O)[O-])\C1=NN(C=C1B1OC(C(O1)(C)C)(C)C)CCN(C(OC(C)(C)C)=O)C | C24H37BN4O6
reactant | ({4-[4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]phenyl}methyl)dimethylamine | BrC1=C2C(=NC=C1)N(C(=C2)C2=CC=C(C=C2)CN(C)C)S(=O)(=O)C2=CC=CC=C2 | C22H20BrN3O2S
product | 1,1-dimethylethyl {2-[4-[2-{4-[(dimethylamino)methyl]phenyl}-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-3-(4-nitrophenyl)-1H-pyrazol-1-yl]ethyl}methylcarbamate | CN(C)CC1=CC=C(C=C1)C1=CC=2C(=NC=CC2C=2C(=NN(C2)CCN(C(OC(C)(C)C)=O)C)C2=CC=C(C=C2)[N+](=O)[O-])N1S(=O)(=O)C1=CC=CC=C1 | C39H41N7O6S
